US05030646
Stage C: 3-[(Dimethylamino)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole (Hydrochloride)
A mixture of 4.10 g (0.2 mol) of 4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole, 3.26 g (0.04 mol) of dimethylamine hydrochloride and 1 g of paraformaldehyde in 50 ml of acetic acid is stirred vigorously at 100° C. under a nitrogen atmosphere and for 45 minutes. After the mixture is cooled, the solvent is evaporated off, the residue is dissolved in 80 ml of water and the aqueous phase is washed with ethyl acetate and alkalinized with concentrated ammonia solution. The precipitate is extracted with methylene chloride and the solution is washed with water saturated with sodium chloride and then concentrated. The residue is dissolved in 50 ml of hot ethanol and the solution is treated at 40° C. with 7 ml of an ethanolic solution of hydrochloric acid. After dilution with ethyl ether, the precipitate is drained, washed with ethyl ether, dried and recrystallized in ethanol.

reactant | 4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 0.2 mol, 4.10 g | O=C1CCSC=2NC3=CC=CC=C3C21 | C11H9NOS
reactant | dimethylamine hydrochloride | 0.04 mol, 3.26 g | Cl.CNC
reactant | paraformaldehyde | 1 g | C=O | CH2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-[(Dimethylamino)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole | CN(C)CC1C(C2=C(NC3=CC=CC=C23)SC1)=O | C14H16N2OS
